US08461083B2
Preparation of N-(6-methoxymethylpyridin-2-yl)-2,2-dimethylpropionamide
A mixture of 2-bromo-6-methoxymethylpyridine [1.00 g; J Heterocyclic Chem., 30, 563, (1993)], pivaloyl amide (0.756 g), palladium acetate (0.112 g), cesium carbonate (2.40 g), 4.5-bis(diphenylphosphino)-9,9-dimethylxanthene (0.434 g) and 1,4-dioxan (5 ml) were sealed in a microwave vial and heated in a microwave oven with stirring for 30 minutes at 150° C. This process was repeated with a second batch of reagents and the products combined, the insoluble material filtered from solution and the filtrate evaporated under reduced pressure. The residue was purified by chromatography (silica; hexane/ethyl acetate) to afford the desired product as a yellow oil, 1.75 g. 1H NMR (CDCl3) δ: 9.84 (1H, s), 7.82 (1H, d), 6.87 (1H, d), 4.43 (2H, s), 3.48 (3H, s).

reactant | 2-bromo-6-methoxymethylpyridine | 1.00 g | BrC1=NC(=CC=C1)COC | C7H8BrNO
reactant | pivaloyl amide | 0.756 g | C(C(C)(C)C)(=O)[NH-]
reactant | cesium carbonate | 2.40 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4.5-bis(diphenylphosphino)-9,9-dimethylxanthene | 0.434 g | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
catalyst | palladium acetate | 0.112 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | 1,4-dioxan | 5 ml | O1CCOCC1 | C4H8O2
product | N-(6-methoxymethylpyridin-2-yl)-2,2-dimethylpropionamide | COCC1=CC=CC(=N1)NC(C(C)(C)C)=O | C12H18N2O2
